US07282588B2
2-[4-({4-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methyl)-1-piperazinyl]ethanol
Following the procedure described for Intermediate 101 using 4-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde and 2-(1-piperazinyl)ethanol provided the title compound. ESMS [M+H]+: 678.4.

reactant | 4-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde | CN1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=O)C=C2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C30H21N5O5S
reactant | 2-(1-piperazinyl)ethanol | N1(CCNCC1)CCO | C6H14N2O
product | 2-[4-({4-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methyl)-1-piperazinyl]ethanol | CN1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CN2CCN(CC2)CCO)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C36H35N7O5S
